US07855216B2
Step 3: 7-Chloro-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a solution of 7-chloro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (0.91 g, 2.25 mmol) in dichloromethane (20 ml) at −10° C. was added iodine monochloride (4.95 ml, 4.95 mmol, 1M solution in dichloromethane) and the resultant mixture was stirred at −10° C. to 0° C. for 2 h. A saturated solution of sodium thiosulfate (25 ml) was added and the mixture was poured into saturated sodium thiosulfate (40 ml). The aqueous layer was extracted with ethyl acetate (3×35 ml) and the combined organic layers were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The resultant residue was triturated in dichloromethane:cyclohexane 1:4 to afford the title compound as a yellow solid (0.87 g, 84%). LCMS (method B): RT=3.17 min, M+H+=460.

reactant | 7-chloro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 2.25 mmol, 0.91 g | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H21ClFN3O2Si
reactant | iodine monochloride | 4.95 mmol, 1M, 4.95 ml | ICl | ClI
reactant | sodium thiosulfate | 25 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium thiosulfate | 40 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7-Chloro-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.87 g, 84% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)Cl)NC1=C(C=C(C=C1)I)F | C16H12ClFIN3O2
